US07446117B2
4-Methyl-6-[4-(methylthio)phenyl]-2-pyridone
To a stirred solution of lithium diisopropylamide (50 mL of a 2M solution in heptane/THF/ethyl benzene, 0.1 mol) in THF (50 mL) at −78° C. and under an atmosphere of nitrogen was added dropwise a solution of 3-methyl-2-butenoic acid (5 g, 0.05 mol) in THF (50 mL). The reaction was warmed to 0° C. for 30 minutes. After cooling to −78° C., a solution of 4-(methylthio)benzonitrile (7.45 g, 0.05 mol) in THF (50 mL) was added dropwise. Upon complete addition, the reaction was warmed to room temperature and stirred for 3 hours. Water (150 mL) and ethyl acetate (100 mL) were added to the reaction mixture and the resulting precipitate filtered, washed with ethyl acetate and dried to give the title compound (4.96 g, 43%) LC retention time 2.75 mins, MS m/z 232 (MH+).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-methyl-2-butenoic acid | 0.05 mol, 5 g | CC(=CC(=O)O)C | C5H8O2
reactant | 4-(methylthio)benzonitrile | 0.05 mol, 7.45 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | Water | 150 mL | O | H2O
solvent | heptane THF ethyl benzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-Methyl-6-[4-(methylthio)phenyl]-2-pyridone | 4.96 g, 43% | CC1=CC(NC(=C1)C1=CC=C(C=C1)SC)=O | C13H13NOS
